US09290485B2
d) N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-5-benzyloxazole-2-carboxamide
A mixture of (5-{[(5-Benzyl-oxazole-2-carbonyl)-amino]-methyl}-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (170 mg, 0.34 mmol), 2 mL TFA and 5 mL DCM was stirred of room temperature for 2 h. The mixture was evaporated in vacuo and the residue was purified by preparative HPLC (Macherey-Nagel Nucleosil 250×40 mm, 5 to 100% ACN and 0.1% TFA, flow 40 ml/min). The product containing fractions were lyophilised, then dissolved in 1 mL MeOH and the resulting mixture was filtered over a MeOH flushed PL-HCO3 MP-resin column. The column was washed with MeOH, the solvent was removed and the crude product was dissolved in water/ACN and lyophilised to yield the title compound. 1H-NMR (DMSO-d6, 400 MHz) 8.80 (t, 1H), 7.27-7.37 (m, 5H), 7.10 (s, 1H), 6.11 (s, 1H), 5.72 (s, 2H), 4.31 (d, 2H), 4.12 (s, 2H), 2.30 (s, 3H), 2.17 (s, 3H); LCMS (method A) RtA=1.001 min; [M+H]+=337.0.

reactant | (5-{[(5-Benzyl-oxazole-2-carbonyl)-amino]-methyl}-4,6-dimethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 0.34 mmol, 170 mg | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1OC(=CN1)CC1=CC=CC=C1)C)=O | C24H28N4O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-5-benzyloxazole-2-carboxamide | NC1=CC(=C(C(=N1)C)CNC(=O)C=1OC(=CN1)CC1=CC=CC=C1)C | C19H20N4O2
